US08022061B2
Methyl 4-(hydroxymethyl)-1H-imidazole-5-carboxylate was dissolved in N,N-dimethylformamide, to this solution, tert-butyl(diphenyl)silyl chloride (1.94 g), imidazole (1.44 g), and catalytic amount of DMAP were added at room temperature. After stirring for 2 hours, the reaction mixture was treated with water and filtered. The residue was washed with water to give methyl 4-({[tert-butyl(diphenyl)silyl]oxy}methyl)-1H-imidazole-5-carboxylate (2.68 g). This compound (2.68 g) was dissolved in N,N-dimethylformamide, to this solution, methyl iodide (478 uL) and potassium carbonate (1.33 g) were added at room temperature. After stirring for overnight, the reaction mixture was treated with water and extracted with ethyl acetate (×3). The combined organic layers were washed with water (×3), and then dried over sodium sulfate, evaporated under reduced pressure. The residue was purified by silica gel column chromatography to give methyl 4-({[tert-butyl(diphenyl)silyl]oxy}methyl)-1H-imidazole-5-carboxylate (1.3 g). This compound (1 g) was dissolved in tetrahydrofuran and cooled by ice water. To this solution, lithium aluminum hydride (185 mg) was slowly added portionwise and stirred for further 10 min. To this solution, water (0.2 mL), 5N NaOH aq. (0.2 mL), water (0.2 mL×3), and sodium sulfate were added subsequently, then the residue was filtered and evaporated under reduced pressure to give [4-({[tert-butyl(diphenyl)silyl]oxy}methyl)-1-methyl-1H-imidazol-5-yl]methanol (807 mg). This compound (807 mg) was dissolved in N,N-dimethylformamide. To the solution, diphenylphosphoryl azide (770 mg) and 1,8-Diazabicyclo[5.4.0]undec-7-ene (425 mg) were added, then heated to 80 degrees. After stirring for 2 hours, the reaction mixture was evaporated, and then treated with water and extracted with ethyl acetate (×3). The combined organic layers was washed with brine, dried over sodium sulfate, evaporated under reduced pressure. The residue was purified by silica gel column chromatography to give 5-(azidomethyl)-4-({[tert-butyl(diphenyl)silyl]oxy}methyl)-1-methyl-1H-imidazole (454 mg). This compound (454 mg) was dissolved in Ethyl acetate and methyl alcohol. To this solution, 10% palladium-carbon (100 mg) was added and stirred for 1 hour under H2 atmosphere. The reaction mixture was filtered and the filtrate was evaporated to give 1-[4-({[tert-butyl(diphenyl)silyl]oxy}methyl)-1-methyl-1H-imidazol-5-yl]methanamine (410 mg). 1H NMR 400 MHz (CDCl3): 7.73-7.69 (m, 4H), 7.45-7.35 (m, 6H), 7.33 (s, 1H), 4.70 (s, 2H), 3.74 (s, 2H), 3.63 (s, 3H), 1.06 (s, 9H). LCMS (ES+) m/z 380 (M+1).

reactant | Methyl 4-(hydroxymethyl)-1H-imidazole-5-carboxylate | OCC=1N=CNC1C(=O)OC | C6H8N2O3
reactant | tert-butyl(diphenyl)silyl chloride | 1.94 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 1.44 g | N1C=NC=C1 | C3H4N2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | methyl 4-({[tert-butyl(diphenyl)silyl]oxy}methyl)-1H-imidazole-5-carboxylate | 2.68 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1N=CNC1C(=O)OC | C22H26N2O3Si
